// Generated for: spectre
// Generated on: Mar 12 10:51:06 2026
// Design library name: VGA
// Design cell name: VGA_tb_new
// Design view name: schematic
simulator lang=spectre
global 0
include "/opt/pdk/ams/410/spectre/c35/soac/soac.scs"
include "/opt/pdk/ams/410/spectre/c35/soac/processOption.scs"
include "/opt/pdk/ams/410/spectre/c35/soac/cmos53.scs" section=cmostm
include "/opt/pdk/ams/410/spectre/c35/soac/res.scs" section=restm
include "/opt/pdk/ams/410/spectre/c35/soac/cap.scs" section=captm
include "/opt/pdk/ams/410/spectre/c35/soac/bip.scs" section=biptm
include "/opt/pdk/ams/410/spectre/c35/soac/ind.scs" section=indtm
include "/opt/pdk/ams/410/spectre/c35/soac/esddiode.scs" section=esddiodetm

// Library name: VGA
// Cell name: VGA_tb_new
// View name: schematic
I0 (vinp vinn vout vdda 0 en ibias vctrl\<3\> vctrl\<2\> vctrl\<1\> \
        vctrl\<0\>) VGA C1=3.95e-11 C2=2.07895e-12 C3=1.0128e-12 \
        C4=6.695e-13 C5=5e-13 vth=0.5 rout=1e+06
V11 (vctrl_filter\<0\> 0) vsource dc=3.3 type=dc
V12 (vctrl_filter\<1\> 0) vsource dc=3.3 type=dc
V16 (vctrl\<0\> 0) vsource dc=3.3 type=dc
V15 (vctrl\<1\> 0) vsource dc=3.3 type=dc
V4 (vinn 0) vsource dc=900m type=dc
V13 (vctrl\<3\> 0) vsource dc=3.3 type=dc
V2 (en 0) vsource dc=3.3 type=dc
V14 (vctrl\<2\> 0) vsource dc=3.3 type=dc
V0 (vdda 0) vsource dc=3.3 type=dc
V5 (vinp 0) vsource dc=900m mag=1 type=sine sinedc=900m ampl=10u freq=10
I4 (0 ibias) isource dc=1 type=dc
I6 (vdda 0 vout vout_filter en ibias vctrl_filter\<1\> vctrl_filter\<0\>) \
        filter freq_ecg=150 freq_emg=1500
simulatorOptions options psfversion="1.4.0" reltol=100e-6 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 homotopy=all limit=delta scalem=1.0 \
    scale=1.0 compatible=spice2 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf enable_pre_ver=yes ignorezerovar=yes 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
tran tran stop=200u errpreset=conservative write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
ac ac start=0.01 stop=10G annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
ahdl_include "/home/davidevi/Desktop/myproject/VGA/VGA/veriloga/veriloga.va"
ahdl_include "/home/davidevi/Desktop/myproject/VGA/FILTER_V2/veriloga/veriloga.va"
